US05977101
b) (±)-7-[[[(2-Benzimidazolyl)methyl]amino]methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid
LiOH (14.6 mg, 0.34 mmol) was added at RT to a solution of methyl (±)-7-[[[(2-benzimidazolyl)methyl]amino]methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (133 mg, 0.31 mmol) in dioxane (3 mL) and H2O (1 mL). The reaction mixture was stirred at RT overnight then the organic solvent was removed in vacuo. The aqueous residue was acidified with 1M HCl solution (0.38 mL) to obtain a white solid which was purified by ODS chromatography (10% acetonitrile/H2O-0.1% TFA) to afford the title compound (65 mg, 51%): 1H NMR (DMSO-d6, 400 MHz) δ 2.51 (m, 1H), 2.73 (m, 1H), 2.91 (s, 3H), 3.69 (bs, 2H), 3.76 (d, J=16.6 Hz, 1H), 3.97 (br s, 2H), 4.97 (m, 1H), 4.45 (d, J=16.6 Hz, 1H), 5.77 (m, 1H), 6.52 (d, J=8.1 Hz, 1H), 6.97 (s, 1H), 7.02 (d, J=8.1 Hz, 1H), 7.20 (m, 2H), 7.52 (m, 2H); MS (ES) m/e 394 (M+H)+. Anal. Calcd. for C21H23N5O3.2 CF3CO2H.H2O: C, 46.95; H, 4.26; N, 10.95. Found: C, 46.81; H, 4.00; N, 10.84.

reactant | LiOH | 0.34 mmol, 14.6 mg | [Li+].[OH-]
reactant | methyl (±)-7-[[[(2-benzimidazolyl)methyl]amino]methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.31 mmol, 133 mg | N1=C(NC2=C1C=CC=C2)CNCC=2C=CC1=C(CN(C(C(N1)CC(=O)OC)=O)C)C2 | C22H25N5O3
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
product | (±)-7-[[[(2-Benzimidazolyl)methyl]amino]methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid | 65 mg, 51% | N1=C(NC2=C1C=CC=C2)CNCC=2C=CC1=C(CN(C(C(N1)CC(=O)O)=O)C)C2 | C21H23N5O3
